.subckt sg13g2_nor2_8 Y A B VDD VSS
XN0 Y A VSS VSS sg13_lv_nmos w=5.92u l=130.00n ng=8 ad=1.125e-12 as=1.347e-12 pd=8.96e-06 ps=1.104e-05 m=1
XN1 Y B VSS VSS sg13_lv_nmos w=5.92u l=130.00n ng=8 ad=1.125e-12 as=1.347e-12 pd=8.96e-06 ps=1.104e-05 m=1
XP0 net1 A VDD VDD sg13_lv_pmos w=8.96u l=130.00n ng=8 ad=1.702e-12 as=2.038e-12 pd=1.2e-05 ps=1.484e-05 m=1
XP1 Y B net1 VDD sg13_lv_pmos w=8.96u l=130.00n ng=8 ad=1.702e-12 as=2.038e-12 pd=1.2e-05 ps=1.484e-05 m=1
.ends
